US05780498
To a stirred solution of N-BOC-N-methyl-(D)-phenylalanine (2.1 g, 7.5 mmol) [BOC=tert-butyloxycarbonyl] in dry DMF [N,N-dimethylformamide] (15 ml) are added (L)-tryptophan methyl ester hydrochloride (2 g, 7.8 mmol) and hydroxybenztriazole (1.2 g, 8.8 mmol). The mixture is cooled to 0° and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (1.7 ml, 9.2 mmol) is added dropwise. The reaction mixture is slowly warmed to r.t. (room temperature) and stirring continued for 2 hours. The homogeneous mixture is diluted with ethyl acetate (500 ml) and washed with three portions of water (200 ml). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo to give N-BOC-N-methyl-(D)-phenylalanyl-(L)-tryptophan methyl ester as a white foam. [a]D =+42° (c=1.0, ethanol).

reactant | N-BOC-N-methyl-(D)-phenylalanine | 7.5 mmol, 2.1 g | C(=O)(OC(C)(C)C)N([C@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | (L)-tryptophan methyl ester hydrochloride | 7.8 mmol, 2 g | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
reactant | hydroxybenztriazole | 8.8 mmol, 1.2 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 9.2 mmol, 1.7 ml | CN(CCCN=C=NCC)C | C8H17N3
solvent | DMF | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | N-BOC-N-methyl-(D)-phenylalanyl-(L)-tryptophan methyl ester | COC([C@@H](NC([C@H](N(C)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)CC1=CNC2=CC=CC=C12)=O | C27H33N3O5
